US08183289B2
To tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetate (4.40 g, 8.96 mmol) in DCM (20 ml) was treated with TFA (20 ml). After stirring for 2 hours. The reaction mixture was concentrated and the crude material was purified by silica gel chromatography using a gradient of 0.5% MeOH/DCM containing 0.5% AcOH to 10% MeOH/DCM containing 0.5% AcOH to provide 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetic acid (3.30 g, 84.7% yield). 1H NMR (400 MHz, CD3OD) 7.85 (d, 2H), 7.65 (s, 1H), 7.45 (d, 1H), 7.35 (s, 1H), 7.25 (d, 2H), 7.20 (d, 2H), 7.10 (d, 2H), 6.95 (d, 1H), 3.62 (m, 4H), 2.90 (t, 2H).

reactant | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetate | 8.96 mmol, 4.40 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)C#N)C=C2)C=C1 | C28H27ClN2O4
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetic acid | 3.30 g, 84.7% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)C#N)C=C2)C=C1 | C24H19ClN2O4
